US06903086B2
To a solution of 2-hydroxy-naphthalene-1-carboxylic acid 2-trimethylsilanyl-ethyl ester (2.92 g, 10.1 mmol) in pyridine (7 mL) was added trifluoromethanesulfonic anhydride (1.91 mL, 11.3 mmol) at 0-5° C. under an argon atmosphere. After removal of the ice bath the mixture was stirred for 3 h at room temperature. The mixture was diluted with EtOAc and washed with 2N HCl, 10% NaHCO3, dried (Na2SO4), and concentrated to dryness. Purification by chromatography gave 4.22 g of 2-trifluoromethanesulfonyloxy-naphthalene-1-carboxylic acid 2-trimethylsilanyl-ethyl ester.

reactant | 2-hydroxy-naphthalene-1-carboxylic acid 2-trimethylsilanyl-ethyl ester | 10.1 mmol, 2.92 g | C[Si](CCOC(=O)C1=C(C=CC2=CC=CC=C12)O)(C)C | C16H20O3Si
reactant | trifluoromethanesulfonic anhydride | 11.3 mmol, 1.91 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
product | 2-trifluoromethanesulfonyloxy-naphthalene-1-carboxylic acid 2-trimethylsilanyl-ethyl ester | 4.22 g | C[Si](CCOC(=O)C1=C(C=CC2=CC=CC=C12)OS(=O)(=O)C(F)(F)F)(C)C | C17H19F3O5SSi
